US06610711B2
3-Ethyl-3-(3-nitrophenyl)-4-pentenoic acid
A solution of methyl 3-ethyl-3-(3-nitrophenyl)-4-pentenoate (Preparation 59, assume 7.25 mmol) in isopropyl alcohol (9 ml) and 2M aqueous sodium hydroxide solution (4.4 ml, 8.75 mmol) was heated under reflux for 11 h, then the reaction mixture was concentrated in vacuo. The residue was partitioned between ethyl acetate and water. The phases were separated and the organic extract was dried (MgSO4), filtered and concentrated in vacuo to give the title compound as an oil which was used without further purification.

reactant | methyl 3-ethyl-3-(3-nitrophenyl)-4-pentenoate | 7.25 mmol | C(C)C(CC(=O)OC)(C=C)C1=CC(=CC=C1)[N+](=O)[O-] | C14H17NO4
reactant | sodium hydroxide | 8.75 mmol, 2M, 4.4 ml | [OH-].[Na+]
solvent | isopropyl alcohol | 9 ml | C(C)(C)O | C3H8O
product | 3-Ethyl-3-(3-nitrophenyl)-4-pentenoic acid | C(C)C(CC(=O)O)(C=C)C1=CC(=CC=C1)[N+](=O)[O-] | C13H15NO4
